US03989722
2-(N-Methylpiperazinomethyl)-acrylonitrile percent
0.5 Mole of N-methylpiperazine are added to 0.5 mole of cyanoacetic acid in 150 cc. of dioxan at a temperature kept at around 0° C. This is followed by the addition of 1 mole of formaldehyde in the form of a 30% aqueous solution. After the heat effect has abated, the mixture is stirred until there is no further evolution of carbon dioxide gas (approximately 2 hours). 200 cc. of water are then added, the product extracted with ether, dried over sodium sulphate and the ether removed in vacuo, followed by distillation.

reactant | N-methylpiperazine | 0.5 Mole | CN1CCNCC1 | C5H12N2
reactant | cyanoacetic acid | 0.5 mole | C(#N)CC(=O)O | C3H3NO2
reactant | formaldehyde | 1 mole | C=O | CH2O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | O | H2O
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2-(N-Methylpiperazinomethyl)-acrylonitrile | CN1CCN(CC1)CC(C#N)=C | C9H15N3
